US05104890
A mixture of ethyl 4-(2-cyanoiminothiazolidin-3-yl)-2,2-dimethyl-2H-1-benzopyran-6-carboxylate (1.15 g) and lithium iodide (3.44 g) in 2,6-lutidine (11.5 ml) was refluxed overnight. The resulting mixture was dissolved in a mixture of ethyl acetate and 10% hydrochloric acid, and the organic layer was separated and washed with brine. The extract was dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel (elution with 30:1 to 4:1 chloroform-methanol) followed by recrystallization from ethanol to give 4-(2-cyanoiminothiazolidin-3-yl)-2,2-dimethyl-2H-1-benzopyran-6-carboxylic acid (0.63 g).

reactant | ethyl 4-(2-cyanoiminothiazolidin-3-yl)-2,2-dimethyl-2H-1-benzopyran-6-carboxylate | 1.15 g | C(#N)N=C1SCCN1C1=CC(OC2=C1C=C(C=C2)C(=O)OCC)(C)C | C18H19N3O3S
reactant | lithium iodide | 3.44 g | [I-].[Li+]
solvent | 2,6-lutidine | 11.5 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
product | 4-(2-cyanoiminothiazolidin-3-yl)-2,2-dimethyl-2H-1-benzopyran-6-carboxylic acid | 0.63 g | C(#N)N=C1SCCN1C1=CC(OC2=C1C=C(C=C2)C(=O)O)(C)C | C16H15N3O3S
